US07087754B2
4-(2-Furyl)-1-(3-nitrobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (Example 30)
A solution of 4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (603 mg, 3 mmol) in DMF (3 mL) at 0° C. was treated with NaH (120 mg, 60%, 3 mmol), stirred for 20 min, treated with 3-nitrobenzyl bromide (648 mg, 3 mmol), stirred at room temperature for 1 h, poured into water, extracted with EtOAc, dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography EtOAc:Heptane, 1:1) to give the title compound as a cream solid (472 mg, 47%). A portion of the solid (70 mg) was suspended in MeOH, treated with HCl in dioxan (4-M, 1 mL), diluted with diethyl ether and filtered to give the hydrochloride salt of the title compound (79 mg, 100%) as a yellow solid.

reactant | 4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 3 mmol, 603 mg | O1C(=CC=C1)C1=C2C(=NC(=N1)N)NN=C2 | C9H7N5O
reactant | NaH | 3 mmol, 120 mg | [H-].[Na+]
reactant | 3-nitrobenzyl bromide | 3 mmol, 648 mg | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(2-Furyl)-1-(3-nitrobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 472 mg, 47% | O1C(=CC=C1)C1=C2C(=NC(=N1)N)N(N=C2)CC2=CC(=CC=C2)[N+](=O)[O-] | C16H12N6O3
